US07087597B1
To a suspension of ethyl 2-(2,3-dihydro-1H-indol-1-yl)-4-[(4-fluorobenzyl)oxy]-5-pyrimidinecarboxylate (5.0 g, 13 mmol) in ethanol (25 mL) were added 10% aqueous sodium hydroxide solution (15 mL) and tetrahydrofuran (15 mL) and the mixture was heated under reflux for 30 min. The reaction mixture was allowed to cool to room temperature and 1N hydrochloric acid was added to adjust the reaction mixture to pH 5. The precipitated crystals were collected by filtration, washed several times with water, dried with heating under vacuum to give 2-(2,3-dihydro-1H-indol-1-yl)-4-[(4-fluorobenzyl)oxy]-5-pyrimidinecarboxylic acid (4.8 g, 100%) as crystals. To the obtained suspension of the obtained carboxylic acid (183 mg, 0.5 mmol), t-butyl glycine (89 mg, 0.53 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (102 mg, 0.53 mmol) in dichloromethane (2 mL) was added triethylamine (0.21 mL, 1.5 mmol) and the mixture was stirred at room temperature for 18 h. Water and ethyl acetate were added to the reaction mixture and the organic layer was concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography and eluted with ethyl acetate to give the title compound (210 mg, 88%).

reactant | ethyl 2-(2,3-dihydro-1H-indol-1-yl)-4-[(4-fluorobenzyl)oxy]-5-pyrimidinecarboxylate | 13 mmol, 5.0 g | N1(CCC2=CC=CC=C12)C1=NC=C(C(=N1)OCC1=CC=C(C=C1)F)C(=O)OCC | C22H20FN3O3
reactant | sodium hydroxide | 15 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-(2,3-dihydro-1H-indol-1-yl)-4-[(4-fluorobenzyl)oxy]-5-pyrimidinecarboxylic acid | 4.8 g, 100% | N1(CCC2=CC=CC=C12)C1=NC=C(C(=N1)OCC1=CC=C(C=C1)F)C(=O)O | C20H16FN3O3
